US07598423B2
Synthesis of 1-(4-Amino-2-hydroxy-3-propyl-phenyl)-ethanone
To N1-(4-acetyl-3-hydroxy-2-propylphenyl)acetamide (1.0 g, 4.3 mmol) in absolute ethanol (15 mL) is added 6N HCl (15 mL). The reaction mixture is refluxed for 3 h. The reaction mixture is cooled to RT and quenched into saturated aqueous NaHCO3. The mixture is extracted with EtOAc (3×). The organic layers are combined, washed with brine, dried over Na2SO4 and concentrated. Obtained is the title compound (827 mg, 99%). LC-MS (m/e): 194 (M+1).

reactant | N1-(4-acetyl-3-hydroxy-2-propylphenyl)acetamide | 4.3 mmol, 1.0 g | C(C)(=O)C1=C(C(=C(C=C1)NC(C)=O)CCC)O | C13H17NO3
reactant | HCl | 6N, 15 mL | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 1-(4-Amino-2-hydroxy-3-propyl-phenyl)-ethanone | 827 mg, 99% | NC1=C(C(=C(C=C1)C(C)=O)O)CCC | C11H15NO2
